US04781927
N-Cbz-1-aminocyclopropanecarboxylic acid 2,2,5,5-tetramethylcyclopentyl ester is dissolved in absolute alcohol at 0° C. in an ultrasound bath. Palladium on carbon (10%) is added. The hydrogen source, 1,4-cyclohexadiene, is added, and ultrasound is commenced for eight minutes. The slurry is then filtered through a bed of Celite with ethyl alcohol. The solvent is removed by rotary evaporation to yield 1-aminocyclopropylcarboxylic acid 2,2,5,5-tetramethylcyclopentyl ester.

reactant | N-Cbz-1-aminocyclopropanecarboxylic acid 2,2,5,5-tetramethylcyclopentyl ester | CC1(C(C(CC1)(C)C)OC(=O)C1(CC1)NC(=O)OCC1=CC=CC=C1)C | C21H29NO4
reactant | hydrogen | [H][H] | H2
reactant | 1,4-cyclohexadiene | C1=CCC=CC1 | C6H8
catalyst | Palladium on carbon | [Pd] | Pd
product | 1-aminocyclopropylcarboxylic acid 2,2,5,5-tetramethylcyclopentyl ester | CC1(C(C(CC1)(C)C)OC(=O)C1(CC1)N)C | C13H23NO2
